US07241773B2
N-[4-(4-methyl phenoxy)phenyl]quinuclidin-3-amine
3-Quinuclidinone hydrochloride (Aldrich, 1.61 g, 10 mmol) was treated with 4-(4-methylphenoxy)aniline (0.99 g, 5.0 mmol) according to the procedure of Example 30A. The title product was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:1, Rf. 0.10) as an oil (1.48 g, yield, 95%). 1H NMR (MeOH-d4, 300 MHz) δ 1.55–1.70 (m, 1H), 1.78–1.95 (m, 2H), 2.00–2.15 (m, 2H), 2.28 (s, 3H), 2.71 (ddd, J=12.9, 5.1, 2.2 Hz, 1H), 2.95–3.10 (m, 4H), 3.46 (ddd, J=12.9, 9.5, 2.4 Hz, 1H), 3.60–3.70 (m, 1H), 6.64 (dt, J=9.0, 2.7 Hz, 2H), 6.72–6.84 (m, 4H), 7.06 (dt, J=9.1, 2.8 Hz, 2H) ppm. MS (DCl/NH3) m/z 309 (M+H)+.

reactant | 3-Quinuclidinone hydrochloride | 10 mmol, 1.61 g | Cl.N12CC(C(CC1)CC2)=O
reactant | 4-(4-methylphenoxy)aniline | 5.0 mmol, 0.99 g | CC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C13H13NO
product | N-[4-(4-methyl phenoxy)phenyl]quinuclidin-3-amine | CC1=CC=C(OC2=CC=C(C=C2)NC2CN3CCC2CC3)C=C1 | C20H24N2O
